US05244886
4-(3-pyridyl)-phenol
26.8 g of 4-bromophenol was taken under protective gas in 1000 ml of dioxane, mixed with 90 g 3-tributylstannylpyridine [preparation according to litt.: Org. Magn. Resonance, 7 (1975), 610] and 11.1 g of bis-(triphenylphosphine)-palladium(II) chloride and refluxed for 15 hours. After concentration by evaporation in a vacuum and purification on silica gel, 15.92 g of the above compound is isolated.

reactant | 4-bromophenol | 26.8 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 3-tributylstannylpyridine | 90 g | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
solvent | dioxane | 1000 ml | O1CCOCC1 | C4H8O2
catalyst | bis-(triphenylphosphine)-palladium(II) chloride | 11.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3-pyridyl)-phenol | 15.92 g | N1=CC(=CC=C1)C1=CC=C(C=C1)O | C11H9NO
